US08012976B2
Ethyl 4-hydroxy-2-oxo-3-phenyl-1,2-dihydroquinoline-5-carboxylate
A mixture of ethyl 4-hydroxy-1-(4-methoxybenzyl)-2-oxo-3-phenyl-1,2-dihydroquinoline-5-carboxylate (298 mg, 2 mmol) in trifluoroacetic acid was heated to reflux for 48 h. After the removal of the solvents, the residue was washed by ethyl acetate to obtain the title compound as a white solid (250 mg, yield 32%). LC-MS (ESI) m/z: 310 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 1.25 (t, J=7.2 Hz, 3H), 4.23 (q, J=7.2 Hz, 2H), 7.08 (d, J=7.2 Hz, 1H), 7.31-7.43 (m, 6H), 7.52 (t, J=8 Hz, 1H), 10.39 (s, 1H), 11.64 (s, 1H).

reactant | ethyl 4-hydroxy-1-(4-methoxybenzyl)-2-oxo-3-phenyl-1,2-dihydroquinoline-5-carboxylate | 2 mmol, 298 mg | OC1=C(C(N(C=2C=CC=C(C12)C(=O)OCC)CC1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C26H23NO5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl 4-hydroxy-2-oxo-3-phenyl-1,2-dihydroquinoline-5-carboxylate | 250 mg, yield 32% | OC1=C(C(NC=2C=CC=C(C12)C(=O)OCC)=O)C1=CC=CC=C1 | C18H15NO4
